* source PROJECT1
R_R5         N01462 GND  100  
V_V1         N07899 GND 5Vdc
D_D2         N01052 N07899 D1N4148 
X_U1A         N01052 N02859 N07899 GND VOUT LM358
D_D3         VOUT N01462 D1N4148 
R_R7         N02859 N07899  9k  
D_D1         N07899 N01025 D1N4148 
R_R1         GND N01025  100  
R_R2         GND N01052  10k  
R_R4         N02859 GND  1k  
