* source PROJECT2
X_U1A         N00345 N00415 N08132 GND A LM358
C_C1         N00684 N00345  0.1u  
D_D2         A N05044 D1N4148 
V_V1         N00684 GND  
+SIN    0 0 0
R_R5         GND N05044  200  
R_Ra         N00684 N08132  6.8k  
V_V2         N08132 GND 5Vdc
R_R1         GND N00415  1k  
R_R2         A N00415  20k  
R_R3         N00345 GND  100k  
